* Auto-generated from an AnalogGenie topology by lna/to_spice.py
* Device values are placeholders exposed as .param for a sizing loop.

.include C:/Users/Devavrat/circuit-repro/.claude/worktrees/lna-data/AutoCkt/repo/eval_engines/ngspice/ngspice_inputs/spice_models/45nm_bulk.txt

.param pVDD=1.1 pVB=0.5
.param pINDQ=12.0 pINDW0=1.25664e+10
.param pNM1W=40u pNM1L=45n
.param pNM2W=40u pNM2L=45n
.param pNM3W=40u pNM3L=45n
.param pR1V=1k
.param pR2V=1k
.param pR3V=1k

Vsup VDD 0 dc {pVDD}

* port 1: RF input, DC-blocked so bias is not shorted to 50 ohm
Vp1 p1 0 dc 0 ac 1 portnum 1 z0 50
Cp1 p1 VIN1 10p
* port 2: RF output
Cp2 VOUT1 p2 10p
Vp2 p2 0 dc 0 ac 0 portnum 2 z0 50

MNM1 n0 VIN1 0 0 nmos W={pNM1W} L={pNM1L}
MNM2 VOUT1 VIN1 0 0 nmos W={pNM2W} L={pNM2L}
MNM3 VOUT1 n0 0 0 nmos W={pNM3W} L={pNM3L}
RR1 VIN1 n0 {pR1V}
RR2 n0 VDD {pR2V}
RR3 VOUT1 VDD {pR3V}

* Dataset topologies are textbook schematics: they show the signal path
* but omit biasing, so nodes reachable only through capacitors have no
* DC path and the OP solve goes singular. rshunt ties every node to
* ground through 1e12 ohm -- enough for a DC solution, negligible at RF.
* Without it, 9 of 26 dataset LNAs fail to simulate at all.
.option rshunt=1e12
.control
op
sp lin 201 1e+09 4e+09 1
let s11db = db(mag(S_1_1) + 1e-30)
let s21db = db(mag(S_2_1) + 1e-30)
print vecmin(s11db) vecmax(s21db)
noise v(p2) Vp1 dec 20 1e+09 4e+09 1
.endc
.end
